US04758580
Into 5 ml of dry dimethylformamide containing 150 mg of sodium hydride (60% suspension in mineral oil) was added 292 mg of 2-hydroxypyridine. After stirring the mixture at room temperature for 15 minutes, 1.2 g of ethyl 6-[p-(5-bromopentyloxy)phenoxy]-2,2-dimethylhexanoate was added thereto. The mixture was stirred at room temperature for 12 hours, and thereafter the solvent was removed from the reaction solution under reduced pressure. The remaining oily substance was dissolved in chloroform, washed with water, and then dried over anhydrous magnesium sulfate. After drying, the solvent was distilled off under reduced pressure. The remaining oily substance was subjected to silica gel column chromatography and the product was eluted out using as an eluent chloroform-methanol (99:1). The solvent was distilled off from the eluate under reduced pressure to give the desired ethyl 6-[p-[5-(2-pyridyloxy)pentyloxy)phenoxy]-2,2-dimethylhexanoate as an oily substance (495 mg).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-hydroxypyridine | 292 mg | OC1=NC=CC=C1 | C5H5NO
reactant | ethyl 6-[p-(5-bromopentyloxy)phenoxy]-2,2-dimethylhexanoate | 1.2 g | BrCCCCCOC1=CC=C(OCCCCC(C(=O)OCC)(C)C)C=C1 | C21H33BrO4
solvent | dimethylformamide | 5 ml, 150 mg | CN(C=O)C | C3H7NO
product | ethyl 6-[p-[5-(2-pyridyloxy)pentyloxy)phenoxy]-2,2-dimethylhexanoate | N1=C(C=CC=C1)OCCCCCOC1=CC=C(OCCCCC(C(=O)OCC)(C)C)C=C1 | C26H37NO5
